Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ y/o female with ___ s/p lap colectomy for 
colon cancer and prophylactic hysterectomy and BSO in ___ by 
___ presented with periumbilical abdominal pain for two 
days that was gradual onset, crampy, constant and increasing 
until presentation.  She had decreased apetite but no nausea or 
vomiting.  Her pain was markedly worse following a meal the 
night prior to admission.  She continued to have normal bowel 
movements with flatus and no blood.
 
Past Medical History:
PMH:  
- ___/ ___ syndrome  
- Adenocarcinoma of colon  
- Insomnia  
- Migranes  
- Mild depression  
- Frequent UTIs  
PSH:  
- Shoulder surgery  
- Wisdom teeth extraxtion  
- Left ankle reconstruction  

 
Social History:
___
Family History:
___: Father, grandfather, and sister with ___. Positive FH for
kidney stones.

 
Physical Exam:
VS: T:97.2 HR:80 BP:121/73 RR:18 O2sat:100% RA 
General: alert and oriented, no acute distress
HEENT: NC/AT, PERRL, EOMI, sclerae anicteric 
CV: RRR, normal S1 and S2, no M/R/G
Resp: CTAB, good aeration
Abd: Soft, nondistended, bowel sounds present, + periumbilical
tenderness to palpation and tap tenderness, LLQ tenderness to
palpation, no rebound or guarding
Rectal: Normal tone, no gross blood, guaiac negative, no masses
Ext: WWP, no ___ edema
Neuro: AO x 3, CNII-XII intact

 
Brief Hospital Course:
Upon arrival to the hospital, Ms. ___ had a KUB which was 
non-specific and a CT scan which showed only a small volume of 
fluid in the left pelvis and a trace amount of fluid in the 
right pelvis and along the liver margin -- there were no 
abnormalities wtih the bowel and no evidence of obstruction.  
There was some fecal loading in the rectum.  Her abdominal exam 
was rather benign -- soft with some tenderness to palpation with 
moderate pressure in the hypogastrium but no rebound or tap 
tenderness and no guarding.

She was admitted to the colorectal surgery service for 
observation and placed on a clear liquid diet with appropriate 
oral pain control with a plan for serial abdominal exams.  Her 
pain gradually improved overnight, her abdominal exam did not 
undergo any major changes.  She continued to have flatus and on 
HD 2 reported feeling better subjectively, reporting resolution 
of her abdominal pain and only some residual "soreness".  She 
was advanced to a regular diet which she tolerated well.

With clinical improvement and resolution of symptoms, she was 
ambulating and tolerating regular diet and benign imaging and 
physical exam, she was discharged home with instructions to 
follow up with her gastroenterologist in the next week and Dr. 
___ in ___ weeks.

 
Discharge Medications:
1. trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. conjugated estrogens 0.625 mg Tablet Sig: Two (2) Tablet PO 
DAILY (Daily).  
3. venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
4. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
5. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
once a day as needed for constipation for 1 doses.  
6. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Inpatient General Surgery Service to 
work up your recent onset abdominal pain within the context of 
abdominal surgery in ___.  CT imaging was done and was 
unremarkable as were laboratory studies.  The abdominal pain was 
deemed not related to an acute intra-abdominal process.  In 
light of your improving clinical status, the resolution of the 
abdominal pain and your ability to tolerate diet, you were 
deemed ready to go home.  

In the coming days, drink plenty of fluids and get plenty of 
rest.  Eat light meals with a low-residue diet.  Take stool 
softeners (colace) along with dulcolax suppositories, as needed, 
in order to have regular bowel movements as imaging did indicate 
a degree of constipation.  You may take showers are usual.  Do 
not drive or operate heavy machinery while taking narcotic pain 
medications.

 
Followup Instructions:
___